US07776867B2
Synthesis of (5,6-Diphenyl-furo[2,3-d]pyrimidin-4-yl)-(2-methyl-[1,3]dioxolan-2-ylmethyl)-amine (219)
A stirred mixture of 4-amino-5,6-diphenylfuro[2,3-d]pyrimidine (50 mg, 0.17 mmol), 2-bromomethyl-2-methyl-[1,3]dioxolane (prepared according to Visweswariah et al., Synthesis, 1982, 4, 309-310) (38 mg, 0.21 mmol) and sodium hydroxide granules (21 mg, 0.53 mmol) in DMF (1 mL) was heated in a microwave at 120° C. for 5 minutes. The resulting mixture was filtered and purified by preparative HPLC to give a beige solid (9 mg). 1H NMR (CDCl3): 8.39 (1H, s), 7.52-7.41 (7H, m), 7.23-7.18 (3H, m), 5.05 (1H, br s), 3.77-3.63 (4H, m), 3.50 (2H, m), 1.19 (3H, s). LC/MS: 388 (MH+).

reactant | 4-amino-5,6-diphenylfuro[2,3-d]pyrimidine | 0.17 mmol, 50 mg | NC=1C2=C(N=CN1)OC(=C2C2=CC=CC=C2)C2=CC=CC=C2 | C18H13N3O
reactant | 2-bromomethyl-2-methyl-[1,3]dioxolane | 0.21 mmol, 38 mg | BrCC1(OCCO1)C | C5H9BrO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (5,6-Diphenyl-furo[2,3-d]pyrimidin-4-yl)-(2-methyl-[1,3]dioxolan-2-ylmethyl)-amine | 9 mg | C1(=CC=CC=C1)C1=C(OC=2N=CN=C(C21)NCC2(OCCO2)C)C2=CC=CC=C2 | C23H21N3O3
